US07439399B2
Preparation of Atomoxetine Hydrochloride Forms A & B
Two grams (0.00491 mol) of atomoxetine (S)-(+)-mandelate was mixed at room temperature with 10 ml of toluene and 1 ml of MeOH and under stirring were heated at 60° C. Keeping the temperature at 60° C. by means of oil bath heating, 0.58 g of aqueous (37%) hydrogen chloride was dropped into the obtained solution. The solution was cooled and at 20-25° C. a solid crystallized. The slurry was stirred for 1 hour at 0° C., then the solid was collected by filtration, washed with toluene and dried under vacuum at 45° C. for 5 hours.

reactant | atomoxetine (S)-(+)-mandelate | 0.00491 mol, Two grams | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.C([C@@H](O)C1=CC=CC=C1)(=O)[O-]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrogen chloride | Cl | ClH
solvent | MeOH | 1 ml | CO | CH4O
product | Atomoxetine Hydrochloride | CC=1C=CC=CC1O[C@H](CCNC)C=2C=CC=CC2.Cl | InChI=1S/C17H21NO.ClH/c1-14-8-6-7-11-16(14)19-17(12-13-18-2)15-9-4-3-5-10-15;/h3-11,17-18H,12-13H2,1-2H3;1H/t17-;/m1./s1
